### PR TITLE
[Merged by Bors] - Feat (GroupTheory.SpecificGroups.KleinFour): Add the Klein four-group to specific groups.

### PR DESCRIPTION
**Pull request by newell**
Feat: Add the Klein four-group to specific groups.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by erdOne** [comment]
Do you plan to use this for anything? I think `(ZMod 2) × (ZMod 2)` is enough for most applications?

**Comment by newell** [comment]
> Do you plan to use this for anything? I think `(ZMod 2) × (ZMod 2)` is enough for most applications?

I believe so.  One could ask the same question of the `DihedralGroup` that is already in mathlib since it is equivalent to `Sum (ZMod n) (ZMod n)` but I think as mathlib grows it will be nice to have more maths such as this formalized even if underneath they are equivalent to something else.  

There are also more things that could be proved about the Klein four-group such as the isomorphism to the normal subgroup $V = { (), (1,2)(3,4), (1,3)(2,4), (1,4)(2,3) }$ of the alternating group $A_4$.  I tried proving this but ran into some difficulties (I could add a TODO note in the top docstring if needed).

**Comment by alreadydone** [comment]
I don't think `Sum (ZMod n) (ZMod n)` has an `AddGroup` structure on it? `ZMod 2 × ZMod 2` on the other hand has one from typeclass inference. If you want to prove things about the Klein four group, why not prove the same for `Multiplicative (ZMod 2 × ZMod 2)` instead? It would be fine to me if you introduce an `abbrev KleinFourGroup := Multiplicative (ZMod 2 × ZMod 2)`. By the way, `DihedralGroup 2` is also isomorphic to the Klein four group.

**Comment by newell** [comment]
> I don't think `Sum (ZMod n) (ZMod n)` has an `AddGroup` structure on it? `ZMod 2 × ZMod 2` on the other hand automatically gets one from typeclass inference. If you want to prove things about the Klein four group, why not prove the same for `Multiplicative (ZMod 2 × ZMod 2)` instead? It would be fine to me if you introduce an `abbrev KleinFourGroup := Multiplicative (ZMod 2 × ZMod 2)`. ~By the way, `DihedralGroup 2` is also isomorphic to the Klein four group.~ (Edit: I see you already showed that.)

I am not necessarily against that and ultimately want to do what is best.  I have a question:

What are the main advantages of using `(ZMod 2) x (ZMod 2)`  instead of the inductive definition that `KleinFourGroup` currently has?

**Comment by erdOne** [comment]
Many results you stated here also hold for `(ZMod n) x (ZMod n)`. If `KleinFourGroup` is defined as `(ZMod 2) x (ZMod 2)` you may obtain the lemmas easily from the general case.

**Comment by newell** [comment]
Do you guys know if there is a way to use `(ZMod 2) x (ZMod 2)` with multiplicative notation that would work?  From what I see I would have to use `+` to get things to work properly (i.e. `(0, 1) + (0, 1) = (0, 0)`, where `a = (0, 1)` and `1 = (0, 0)` from the relation `a^2 = 1`.  I am just used to using `*` and curious if there is a work around for this somewhere (I suppose I could define local notation but this seems rather hackish).

**Comment by erdOne** [comment]
The `Multiplicative` function that Junyan mentioned above does it.

**Comment by newell** [comment]
I tried that but it wasn't working for me.  Will see if I can figure out why.

**Comment by newell** [comment]
@erdOne @alreadydone I updated the definition.  Any other suggestions, let me know.  Thanks for the feedback.

File: Mathlib/GroupTheory/SpecificGroups/KleinFour.lean [hunk 1]
```diff
@@ -0,0 +1,171 @@
...
+def e := (1 : KleinFourGroup)
+
+/-- Element `a` of Klein four-group. -/
+def a := Multiplicative.ofAdd ((0, 1) : KleinFourGroup)
+
+/-- Element `b` of Klein four-group. -/
+def b := Multiplicative.ofAdd ((1, 0) : KleinFourGroup)
+
+/-- Element `c` of Klein four-group. -/
+def c := Multiplicative.ofAdd ((1, 1) : KleinFourGroup)
```
Comment (alreadydone) [inline Mathlib/GroupTheory/SpecificGroups/KleinFour.lean:63]: Should be
```suggestion
def e : KleinFourGroup := 1

/-- Element `a` of Klein four-group. -/
def a : KleinFourGroup := Multiplicative.ofAdd (0, 1)
```
etc.

File: Mathlib/GroupTheory/SpecificGroups/KleinFour.lean [hunk 2]
```diff
@@ -0,0 +1,171 @@
...
+
+/-- `(0, 0)` is the identity element. -/
+private def one : KleinFourGroup :=
+  e
+
+instance : Inhabited (KleinFourGroup) :=
+  ⟨one⟩
```
Comment (alreadydone) [inline Mathlib/GroupTheory/SpecificGroups/KleinFour.lean:70]: Why do you need `one`? Can't you do
```suggestion
instance : Inhabited (KleinFourGroup) :=
  ⟨e⟩
```

File: Mathlib/GroupTheory/SpecificGroups/KleinFour.lean [hunk 3]
```diff
@@ -0,0 +1,171 @@
...
+instance : Group (KleinFourGroup) :=
+  Multiplicative.group
+
+/-- Klein four-group is an abelian group. -/
+instance commGroup : CommGroup (KleinFourGroup) :=
+  inferInstance
+
+/-- Klein four-group is a finite group. -/
+instance fintype : Fintype (KleinFourGroup) :=
+  inferInstance
```
Comment (alreadydone) [inline Mathlib/GroupTheory/SpecificGroups/KleinFour.lean:86]: I don't think you need these as you made `KleinFourGroup` an abbrev.

File: Mathlib/GroupTheory/SpecificGroups/KleinFour.lean [hunk 4]
```diff
@@ -0,0 +1,171 @@
...
+
+/-- `(0, 0)` is the identity element. -/
+private def one : KleinFourGroup :=
+  e
+
+instance : Inhabited (KleinFourGroup) :=
+  ⟨one⟩
+
+@[simp]
+theorem one_def : ((0, 0) : KleinFourGroup) = (1 : KleinFourGroup) :=
```
Comment (alreadydone) [inline Mathlib/GroupTheory/SpecificGroups/KleinFour.lean:73]: forgot `Multiplicative.ofAdd` here?

File: Mathlib/GroupTheory/SpecificGroups/KleinFour.lean [hunk 5]
```diff
@@ -0,0 +1,171 @@
...
+
+@[simp] theorem orderOf_c : orderOf c = 2 := by
+  apply orderOf_eq_prime
+  · exact c_order_two
+  · intro hc
+    rw [c, ← one_def] at hc
+    simp only [one_def, ofAdd_eq_one] at hc
+
+theorem exponent : Monoid.exponent (KleinFourGroup) = 2 := by
+  have : Monoid.exponent (KleinFourGroup) = lcm 2 2 := by
```
Comment (alreadydone) [inline Mathlib/GroupTheory/SpecificGroups/KleinFour.lean:127]:
```suggestion
theorem exponent : Monoid.exponent KleinFourGroup = 2 := by
  have : Monoid.exponent KleinFourGroup = lcm 2 2 := by
```

File: Mathlib/GroupTheory/SpecificGroups/KleinFour.lean [hunk 6]
```diff
@@ -0,0 +1,171 @@
...
+      | (0, 0) => rfl
+      | (0, 1) => rfl
+      | (1, 0) => rfl
+      | (1, 1) => rfl
+    · apply lcm_dvd
+      repeat {convert Monoid.order_dvd_exponent a; exact orderOf_a.symm}
+  assumption
+
+/-- Klein four-group is a non-cyclic group. -/
+theorem notIsCyclic : ¬ IsCyclic (KleinFourGroup) := by
```
Comment (alreadydone) [inline Mathlib/GroupTheory/SpecificGroups/KleinFour.lean:142]:
```suggestion
theorem notIsCyclic : ¬ IsCyclic KleinFourGroup := by
```

**Comment by newell** [comment]
@alreadydone  Added fixes, thanks for the review.

File: Mathlib/GroupTheory/SpecificGroups/KleinFour.lean [hunk 7]
```diff
@@ -0,0 +1,145 @@
...
+
+@[simp] theorem orderOf_c : orderOf c = 2 := by
+  apply orderOf_eq_prime
+  · exact c_order_two
+  · intro hc
+    rw [c] at hc
+    simp only [ofAdd_eq_one] at hc
+
+theorem exponent : Monoid.exponent KleinFourGroup = 2 := by
+  have : Monoid.exponent KleinFourGroup = lcm 2 2 := by
```
Comment (j-loreaux) [inline Mathlib/GroupTheory/SpecificGroups/KleinFour.lean:101]: This was missing API in `Monoid.exponent` which I've just added in #8066

**Review by j-loreaux — COMMENTED** [review]
It would be nice if you proved that any group of order 4 which is not cyclic is isomorphic to the `KleinFourGroup`. Also, I would be tempted to name it simply `KleinFour`, but that's just bikeshedding.

**Comment by newell** [comment]
> It would be nice if you proved that any group of order 4 which is not cyclic is isomorphic to the `KleinFourGroup`. Also, I would be tempted to name it simply `KleinFour`, but that's just bikeshedding.

Yes, the branch currently is a little thin so I agree getting another meaningful theorem in there would be good.  Will put into WIP and work on that when I get some cycles.

File: Mathlib/GroupTheory/SpecificGroups/KleinFour.lean [hunk 8]
```diff
@@ -0,0 +1,145 @@
...
+
+@[simp] theorem c_order_two : c ^ 2 = 1 :=
+  rfl
+
+@[simp] theorem orderOf_a : orderOf a = 2 := by
+  apply orderOf_eq_prime
+  · exact a_order_two
+  · intro ha
+    rw [a] at ha
+    simp only [ofAdd_eq_one] at ha
```
Comment (j-loreaux) [inline Mathlib/GroupTheory/SpecificGroups/KleinFour.lean:84]:
```suggestion
@[simp] theorem orderOf_a : orderOf a = 2 := orderOf_eq_prime a_order_two (by decide)
```
and similarly for the others

File: Mathlib/GroupTheory/SpecificGroups/KleinFour.lean [hunk 9]
```diff
@@ -0,0 +1,145 @@
...
+      simp only [lcm_same, normalize_apply, normUnit_eq_one, Units.val_one, mul_one]
+      intro k
+      match k with
+      | (0, 0) => rfl
+      | (0, 1) => rfl
+      | (1, 0) => rfl
+      | (1, 1) => rfl
+    · apply lcm_dvd
+      repeat {convert Monoid.order_dvd_exponent a; exact orderOf_a.symm}
+  assumption
```
Comment (j-loreaux) [inline Mathlib/GroupTheory/SpecificGroups/KleinFour.lean:113]: Marked `simp` as `high` because `KleinFourGroup` is an abbreviation, so otherwise `simp` sees through the abbreviation and simplifies using another lemma.
```suggestion
@[simp high]
theorem exponent : Monoid.exponent KleinFourGroup = 2 := by simp [AddMonoid.exponent_prod]
```

File: Mathlib/GroupTheory/SpecificGroups/KleinFour.lean [hunk 10]
```diff
@@ -0,0 +1,145 @@
...
+
+/-- Klein four-group is a non-cyclic group. -/
+theorem notIsCyclic : ¬ IsCyclic KleinFourGroup := by
+  intro h
+  have h₁ := IsCyclic.iff_exponent_eq_card.mp h
+  rw [exponent,card] at h₁
+  contradiction
+
+/-- Klein four-group is isomorphic to the Dihedral group of order 4. -/
+def KleinFourGroup_eq_DihedralGroup2 : KleinFourGroup ≃* DihedralGroup 2 where
```
Comment (j-loreaux) [inline Mathlib/GroupTheory/SpecificGroups/KleinFour.lean:123]: With the namespace this is redundant, and we shouldn't say `eq`, because it's not equality.
```suggestion
def mulEquivDihedralGroup2 : KleinFourGroup ≃* DihedralGroup 2 where
```

File: Mathlib/GroupTheory/SpecificGroups/KleinFour.lean [hunk 11]
```diff
@@ -0,0 +1,145 @@
...
+  toFun k :=
+    match k with
```
Comment (j-loreaux) [inline Mathlib/GroupTheory/SpecificGroups/KleinFour.lean:125]: When you want to pattern match immediately upon introducing a variable, you don't need to introduce it, just use the `fun` syntax. (Here and below)
```suggestion
  toFun := fun
```

File: Mathlib/GroupTheory/SpecificGroups/KleinFour.lean [hunk 12]
```diff
@@ -0,0 +1,145 @@
...
+    | sr 1 => (0, 1)
+    | r 1 => (1, 0)
+    | sr 1 * r 1 => (1, 1)
+  left_inv k := by
+    match k with
+    | (0, 0) => rfl
+    | (0, 1) => rfl
+    | (1, 0) => rfl
+    | (1, 1) => rfl
+  right_inv := by simp
```
Comment (j-loreaux) [inline Mathlib/GroupTheory/SpecificGroups/KleinFour.lean:142]:
```suggestion
  left_inv k := by decide
  right_inv := by decide
```

File: Mathlib/GroupTheory/SpecificGroups/KleinFour.lean [hunk 13]
```diff
@@ -0,0 +1,145 @@
...
+* The outer automorphism group of `A₆` is the Klein four-group `V = (ZMod 2) × (ZMod 2)`,
+  and is related to the outer automorphism of `S₆`. The extra outer automorphism in `A₆`
+  swaps the 3-cycles (like `(1 2 3)`) with elements of shape `3²` (like `(1 2 3)(4 5 6)`).
+
+## Tags
+non-cyclic abelian group
+-/
+
+/-- Klein four-group. -/
+abbrev KleinFourGroup := Multiplicative (ZMod 2 × ZMod 2)
```
Comment (j-loreaux) [inline Mathlib/GroupTheory/SpecificGroups/KleinFour.lean:47]: I don't think this is ambiguous. Note that you would need to search and replace `KleinFourGroup` with `KleinFour`
```suggestion
abbrev KleinFour := Multiplicative (ZMod 2 × ZMod 2)
```

**Review by j-loreaux — COMMENTED** [review]
You'll need to merge master for these suggestions to work. I've added a few PRs in the past few days to make life much easier here. In case you're wondering what I did: (#8066, #8072, #8093, #8094).

Also, note that my suggestion before about showing any non-cyclic group of order 4 is isomorphic to the Klein four group is probably scope creep, and that should just be a new PR.

**Comment by j-loreaux** [comment]
I'm a bit concerned about calling the elements `a`, `b`, `c`, despite the namespace, but I don't have a better idea right now. Maybe another maintainer will.

maintainer merge

**Comment by j-loreaux** [comment]
maintainer merge

**Review by jcommelin — COMMENTED** [review]
Let's merge this now. But if the API surface grows, we should consider refactoring it to build on top of a characteristic predicate. Because we'll see many Klein four groups that are not defeq to the one chosen in this PR. And it will be ncie if the API applies transparently to all those cases.

bors merge

**Review by eric-wieser — APPROVED** [review]
bors r-

bors d+

Whoops, I forgot to submit these small comments
